### PR TITLE
[Merged by Bors] - feat(Algebra/Order): add Finite(Mul)ArchimedeanClass

### PR DESCRIPTION
**Pull request by wwylele**
Separated from #25970. This adds a subtype of (Mul)ArchimedeanClass that is useful in formalizing Hahn embedding theorem.

The only code change since last review was doc string update for `to_additive`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 1]
```diff
@@ -453,3 +457,112 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
 end LiftHom
 
 end MulArchimedeanClass
+
+variable (M) in
+/-- Subtype of `MulArchimedeanClass` that removes the class of `1` (i.e. the top element). -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
/-- Subtype of `MulArchimedeanClass` that removes the class of `1` (i.e. the top element).

This is useful since the family of non-top archimedean classes is linearly independent.
-/
```
or something like that.

Also, I personally don't like docstrings that say "Same thing as `foo`, but we change bar", because it becomes difficult to understand at once. Actually, now that I reread your docstring for `MulArchimedeanClass`, it suffers the same issue! Could you try making both docstrings more self-contained?

**Review by YaelDillies — COMMENTED** [review]
Thanks for splitting!

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Updated the doc

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 2]
```diff
@@ -144,9 +145,13 @@ variable {M : Type*}
 variable [CommGroup M] [LinearOrder M] [IsOrderedMonoid M] {a b : M}
 
 variable (M) in
-/-- `MulArchimedeanClass` is the antisymmetrization of `MulArchimedeanOrder`. -/
+/-- `MulArchimedeanClass` is the quotient by multiplicative archimedean equivalence,
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
/-- `MulArchimedeanClass M` is the quotient of the monoid `M` by multiplicative archimedean equivalence,
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 3]
```diff
@@ -453,3 +461,118 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
 end LiftHom
 
 end MulArchimedeanClass
+
+variable (M) in
+/-- Quotient of non-identity elements by multiplicative archimedean equivalence, defined as a
+subtype of `MulArchimedeanClass` that removes the class of `1` (i.e. the top element).
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
/-- `FiniteMulArchimedeanClass M` is the quotient of the non-one elements of the monoid `M` by multiplicative archimedean equivalence,
where two elements `a` and `b` are in the same class iff
`(∃ m : ℕ, |b|ₘ ≤ |a|ₘ ^ m) ∧ (∃ n : ℕ, |a|ₘ ≤ |b|ₘ ^ n)`.

It is defined as the subtype of non-top elements of `MulArchimedeanClass M` (`⊤ : MulArchimedeanClass M` is the archimedean class of `1`).
```
maybe? (severely in need of line-wrapping!)

Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Updated. Could you check and see if this good?

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 4]
```diff
@@ -453,3 +461,126 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+It is defined as the subtype of non-top elements of `ArchimedeanClass M`
+(`⊤ : ArchimedeanClass M` is the archimedean class of `0`).
+
+This is useful since the family of non-top archimedean classes is linearly independent. -/]
+abbrev FiniteMulArchimedeanClass := {A : MulArchimedeanClass M // A ≠ ⊤}
+
+namespace FiniteMulArchimedeanClass
+
+/-- Create a `FiniteMulArchimedeanClass` from a non-one element. -/
+@[to_additive /--Create an `FiniteArchimedeanClass` from a non-zero element.-/]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Create an `FiniteArchimedeanClass` from a non-zero element.-/]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 5]
```diff
@@ -453,3 +461,126 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+It is defined as the subtype of non-top elements of `ArchimedeanClass M`
+(`⊤ : ArchimedeanClass M` is the archimedean class of `0`).
+
+This is useful since the family of non-top archimedean classes is linearly independent. -/]
+abbrev FiniteMulArchimedeanClass := {A : MulArchimedeanClass M // A ≠ ⊤}
+
+namespace FiniteMulArchimedeanClass
+
+/-- Create a `FiniteMulArchimedeanClass` from a non-one element. -/
+@[to_additive /-- Create an `FiniteArchimedeanClass` from a non-zero element.-/]
```
Comment (wwylele) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Create a `FiniteArchimedeanClass` from a non-zero element.-/]
```

**Comment by wwylele** [comment]
Small changes since YaelDillies's review on [0d83c45](https://github.com/leanprover-community/mathlib4/pull/28394/commits/0d83c45347b6e613404d8427bcf07337075480fd):
 - Addressed comment on missing space
 - Fixed a "an/a" typo in doc
 - Rebased to latest master to resolve a conflict in the imports

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 6]
```diff
@@ -567,3 +575,126 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+It is defined as the subtype of non-top elements of `ArchimedeanClass M`
+(`⊤ : ArchimedeanClass M` is the archimedean class of `0`).
+
+This is useful since the family of non-top archimedean classes is linearly independent. -/]
+abbrev FiniteMulArchimedeanClass := {A : MulArchimedeanClass M // A ≠ ⊤}
+
+namespace FiniteMulArchimedeanClass
+
+/-- Create a `FiniteMulArchimedeanClass` from a non-one element. -/
+@[to_additive /-- Create a `FiniteArchimedeanClass` from a non-zero element.-/]
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Create a `FiniteArchimedeanClass` from a non-zero element. -/]
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 7]
```diff
@@ -567,3 +575,126 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+@[to_additive]
+theorem mk_le_mk {a : M} (ha : a ≠ 1) {b : M} (hb : b ≠ 1) :
+    mk a ha ≤ mk b hb ↔ MulArchimedeanClass.mk a ≤ MulArchimedeanClass.mk b := .rfl
+
+@[to_additive]
+theorem mk_lt_mk {a : M} (ha : a ≠ 1) {b : M} (hb : b ≠ 1) :
+    mk a ha < mk b hb ↔ MulArchimedeanClass.mk a < MulArchimedeanClass.mk b := .rfl
+
+/-- An induction principle for `FiniteMulArchimedeanClass`. -/
+@[to_additive (attr := elab_as_elim) /--An induction principle for `FiniteArchimedeanClass`.-/]
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive (attr := elab_as_elim) /--An induction principle for `FiniteArchimedeanClass`. -/]
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 8]
```diff
@@ -567,3 +575,126 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+    induction B using ind with | mk b hb
+    simpa [mk] using MulArchimedeanClass.mk_eq_mk_of_mulArchimedean ha hb
+
+@[to_additive]
+instance [Nontrivial M] : Nonempty (FiniteMulArchimedeanClass M) := by
+  obtain ⟨x, hx⟩ := exists_ne (1 : M)
+  exact ⟨mk x hx, by simpa using hx⟩
+
+/-- Lift a `f : {a : M // a ≠ 1} → α` function to `FiniteMulArchimedeanClass M → α`. -/
+@[to_additive /--Lift a `f : {a : M // a ≠ 0} → α` function to `FiniteArchimedeanClass M → α`. -/]
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Lift a `f : {a : M // a ≠ 0} → α` function to `FiniteArchimedeanClass M → α`. -/]
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 9]
```diff
@@ -567,3 +575,126 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+
+@[to_additive (attr := simp)]
+theorem lift_mk {α : Type*} (f : {a : M // a ≠ 1} → α)
+    (h : ∀ (a b : {a : M // a ≠ 1}), mk a.val a.prop = mk b.val b.prop → f a = f b)
+    {a : M} (ha : a ≠ 1) :
+    lift f h (mk a ha) = f ⟨a, ha⟩ := by simp [lift, mk, ha]
+
+/-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean classes to a
+monotone function `FiniteMulArchimedeanClass M →o α`. -/
+@[to_additive /--Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean classes to
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean classes to
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 10]
```diff
@@ -567,3 +575,126 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+@[to_additive (attr := simp)]
+theorem liftOrderHom_mk {α : Type*} [PartialOrder α]
+    (f : {a : M // a ≠ 1} → α)
+    (h : ∀ (a b : {a : M // a ≠ 1}), mk a.val a.prop ≤ mk b.val b.prop → f a ≤ f b)
+    {a : M} (ha : a ≠ 1) : liftOrderHom f h (mk a ha) = f ⟨a, ha⟩ :=
+  lift_mk f (fun a b heq ↦ le_antisymm (h a b heq.le) (h b a heq.ge)) ha
+
+variable (M) in
+/-- Adding top to the type of finite classes yields the type of all classes. -/
+@[to_additive /--Adding top to the type of finite classes yields the type of all classes.-/]
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Adding top to the type of finite classes yields the type of all classes. -/]
```

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors d+

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 11]
```diff
@@ -567,3 +575,126 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+    (fun b ↦ if h : b = 1 then ⊤ else WithTop.some (f ⟨b, h⟩)) ?_ A).untop ?_
+  · intro a b h'
+    simp only
+    split_ifs with ha hb hb
+    · rfl
+    · rw [ha] at h'
+      exact (hb (MulArchimedeanClass.mk_eq_top_iff.mp h'.symm)).elim
+    · rw [hb] at h'
+      exact (ha (MulArchimedeanClass.mk_eq_top_iff.mp h')).elim
+    · exact WithTop.coe_eq_coe.mpr <| h ⟨a, ha⟩ ⟨b, hb⟩ (by simpa [mk] using h')
```
Comment (alreadydone) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: a bit of golf
```suggestion
    (fun b ↦ if h : b = 1 then ⊤ else WithTop.some (f ⟨b, h⟩)) (fun a b h' ↦ ?_) A).untop ?_
  · simp only
    split_ifs with ha hb hb
    · rfl
    · exact (hb (MulArchimedeanClass.mk_eq_top_iff.mp (ha ▸ h').symm)).elim
    · exact (ha (MulArchimedeanClass.mk_eq_top_iff.mp (by apply hb ▸ h'))).elim
    · rw [h ⟨a, ha⟩ ⟨b, hb⟩ (by simpa [mk] using h')]
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 12]
```diff
@@ -567,3 +575,123 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+@[to_additive (attr := simp)]
+theorem lift_mk {α : Type*} (f : {a : M // a ≠ 1} → α)
+    (h : ∀ (a b : {a : M // a ≠ 1}), mk a.val a.prop = mk b.val b.prop → f a = f b)
+    {a : M} (ha : a ≠ 1) :
+    lift f h (mk a ha) = f ⟨a, ha⟩ := by simp [lift, mk, ha]
+
+/-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean classes to a
+monotone function `FiniteMulArchimedeanClass M →o α`. -/
+@[to_additive /-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean classes to
+a monotone function `FiniteArchimedeanClass M₁ →o α`. -/]
```
Comment (wwylele) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean 
classes to a monotone function `FiniteArchimedeanClass M₁ →o α`. -/]
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 13]
```diff
@@ -567,3 +575,123 @@ theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
...
+
+@[to_additive (attr := simp)]
+theorem lift_mk {α : Type*} (f : {a : M // a ≠ 1} → α)
+    (h : ∀ (a b : {a : M // a ≠ 1}), mk a.val a.prop = mk b.val b.prop → f a = f b)
+    {a : M} (ha : a ≠ 1) :
+    lift f h (mk a ha) = f ⟨a, ha⟩ := by simp [lift, mk, ha]
+
+/-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean classes to a
+monotone function `FiniteMulArchimedeanClass M →o α`. -/
+@[to_additive /-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean
```
Comment (wwylele) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- Lift a function `{a : M // a ≠ 1} → α` that's monotone along archimedean
```

**Comment by wwylele** [comment]
Looks like I got hit by cache issue again... let me just try merging?

bors r+
